US09024027B2
A mixture of methyl 2-(5-methoxy-6-nitro-1,3-dioxoisoindolin-2-yl)acetate (0.225 g, 0.765 mmol) and 10% w/w Pd/C (a catalytic amount) in MeOH (20 ml) and ethyl acetate (10 ml) was hydrogenated in a Parr apparatus at 15 psi for 1 hour. The mixture was diluted with DCM till complete dissolution of the yellow precipitate, the catalyst was filtered off and the filtrate was evaporate to dryness affording methyl 2-(5-amino-6-methoxy-1,3-dioxoisoindolin-2-yl)acetate (0.202 g, 0.764 mmol, 100% yield). MS/ESI+ 265.0 [MH]+.

reactant | methyl 2-(5-methoxy-6-nitro-1,3-dioxoisoindolin-2-yl)acetate | 0.765 mmol, 0.225 g | COC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)CC(=O)OC)=O | C12H10N2O7
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 20 ml | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-(5-amino-6-methoxy-1,3-dioxoisoindolin-2-yl)acetate | 0.764 mmol, 0.202 g, 100% yield | NC=1C=C2C(N(C(C2=CC1OC)=O)CC(=O)OC)=O | C12H12N2O5
